* D:\College HK\PCB Design\KiCad\lamp\GENERATED LTSPICE\rfrx\RX.asc
* Generated by LTspice 26.0.2 for Windows.
X§U1 IN REF VCC 0 CMP TLV9002 TLV9002 ;§pnba In+)In-)V+)V-)OUT
V2 VCC 0 12
R1 VCC REF 90K
R2 REF 0 15K
C1 THR CMP 2.2n
R3 VCC THR 10K
R4 VCC CIN 68K
R5 CIN 0 10K
X§U2 FV RT N002 0 RC THR CIN VCC LM331 ;§pnba IOUT)IREF)FOUT)GND)RC)THRESH)COMPIN)Vcc
Rt VCC RC 6.8K
Ct RC 0 10n
R7 VCC N002 10K
Rl FV 0 100k
Cl FV 0 50n
R6 RT N005 3.65K
Rv N005 0 2.2K
Rf1 N003 FV 150K
Rf2 N004 N003 150K
X§U3 N004 LP VCC 0 LP TLV9002 TLV9002 ;§pnba In+)In-)V+)V-)OUT
Cf2 N004 0 10n
Cf1 LP N003 22n
X§U4 N001 VBUF VCC 0 VBUF TLV9002 TLV9002 ;§pnba In+)In-)V+)V-)OUT
Rva VCC N001 24.9K
Rvb N001 0 11K
X§U5 P M VCC 0 OUT TLV9002 TLV9002 ;§pnba In+)In-)V+)V-)OUT
Rg1 LP P 10K
Rg2 P 0 30K
Rg4 OUT M 45K
Rg3 VBUF M 10K
V3 IN 0 PULSE(0 3 0 1n 1n {0.5/f0} {1/f0})
.param f0=1650
.step param f0 list 1650 1783.3 1916.7 2050 2183.3 2316.7 2450 2583.3 2716.7 2850
.tran 0 50m 0 10u startup
.meas TRAN vout AVG V(OUT) FROM=40m TO=49m
.lib MY555.sub
* Library below included based on ModelFile attribute of instance X§U2 (C:\Users\chira\AppData\Local\LTspice\lib\sym\LM331.asy)
.lib LM331.sub
* Library below included based on ModelFile attribute of instance X§U1, X§U3, X§U4, X§U5 (C:\Users\chira\AppData\Local\LTspice\lib\sym\OpAmps\TLV9002.asy)
.lib tlv9002.lib
.backanno
.end
