* D:\College HK\PCB Design\KiCad\lamp\GENERATED LTSPICE\rftx\tx.asc
* Generated by LTspice 26.0.2 for Windows.
X§U1 N005 N002 VCC 0 N003 TLV9002 ;§pnba In+)In-)V+)V-)OUT
V1 N001 0 {vin}
R1 N002 N001 100K
Rf N003 N002 10K
R2 VCC N005 3.3K
R3 N005 0 5.6K
VSUPP VCC 0 3
Q2 T N003 N004 0 2N3906
Re1 N004 VCC 20K
C3 T 0 15.5n
X§U3 0 T F_OUT VCC N007 T N006 VCC MY555 ;§pnba GND)TRIG)OUT)RST)CV)THRS)DIS)Vcc
R5 N006 T 1K
C1 N007 0 10n
Rcv1 N007 0 8.2K
R7 F_OUT 0 10K
.model NPN NPN
.model PNP PNP
.lib C:\Users\chira\AppData\Local\LTspice\lib\cmp\standard.bjt
.include tlv9002.lib
.tran 0 50ms 0 10u startup
.step param vin list 0 3
.meas TRAN t1 WHEN V(F_out)=2.5 RISE=2
.meas TRAN t2 WHEN V(F_out)=2.5 RISE=3
.meas TRAN Freq PARAM 1/(t2-t1)
* Library below included based on ModelFile attribute of instance X§U3 (C:\Users\chira\AppData\Local\LTspice\lib\sym\Misc\mysymbol.asy)
.lib MY555.sub
* Library below included based on ModelFile attribute of instance X§U1 (C:\Users\chira\AppData\Local\LTspice\lib\sym\OpAmps\TLV9002.asy)
.lib tlv9002.lib
.backanno
.end
